.title kicad schematic

r1 in out 1k
* u2 out plot_v1
c1 out gnd 1u
* u1 in plot_v1
v1 in gnd sine(0 5 50 0 0)
.tran 5e-03 30e-03 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
